US09238640B2
A mixture of 4-fluorobenzaldehyde (2.0 g, 16.1 mmol), 2,6-dimethylpiperazine (2.2 g, 19.3 mmol), and K2CO3 (2.7 g, 19.3 mmol) in DMF (10 mL) was heated at 120° C. for 4 hours. Then, the reaction was diluted with H2O and extracted with EtOAc. The organics were washed with brine, dried (Na2SO4), filtered and concentrated in vacuo. Purification by flash chromatography on silica gel eluting with 3% to 10% MeOH/CH2Cl2 afforded 4-(3,5-dimethylpiperazin-1-yl)benzaldehyde (2.0 g, 57%).

reactant | 4-fluorobenzaldehyde | 16.1 mmol, 2.0 g | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | 2,6-dimethylpiperazine | 19.3 mmol, 2.2 g | CC1NC(CNC1)C | C6H14N2
reactant | K2CO3 | 19.3 mmol, 2.7 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | H2O | O | H2O
product | 4-(3,5-dimethylpiperazin-1-yl)benzaldehyde | 2.0 g, 57% | CC1CN(CC(N1)C)C1=CC=C(C=O)C=C1 | C13H18N2O
